US07696223B2
a) 3-(4-{[(2,4-Dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-2-thiophen-2-yl-thiazol-5-yl)-3-oxo-propionic acid ethyl ester
A solution of 2-Bromo-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethyl ester (1 g, 2 mmol, example 96(b), 2-(tributylstannyl)thiophene (1.26 mL, 2 mmol), dichlorobis(triphenylphosphine)palladium II (140 mg, 0.2 mmol) in 13 mL anhydrous DMF was heated to 130° C. for 20 min. The reaction mixture was cooled, diluted with ethyl acetate, and washed successively with water, saturated sodium bicarbonate, and brine. The organic fraction was dried over anhydrous sodium sulfate, concentrated to a crude residue and purified by column chromatography (eluting from silica gel with a gradient of 15-70% ethyl acetate in hexanes) to give 867 mg of a yellow oil. MS (ESI+): m/z 527.2 (M+23)

reactant | 2-Bromo-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C(S1)Br)CN(CC(=O)OCC)CC1=C(C=C(C=C1)OC)OC | C20H25BrN2O6S
reactant | 2-(tributylstannyl)thiophene | 2 mmol, 1.26 mL | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)-palladium | 0.2 mmol, 140 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(4-{[(2,4-Dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-2-thiophen-2-yl-thiazol-5-yl)-3-oxo-propionic acid ethyl ester | 867 mg | C(C)OC(CC(=O)C1=C(N=C(S1)C=1SC=CC1)CN(CC(=O)OCC)CC1=C(C=C(C=C1)OC)OC)=O | C26H30N2O7S2
